US06608214B2
Production of Ethyl (R)-4-Benzyloxy-3-hydroxybutyrate
300.0 g (1.27 moles) ethyl 4-benzyloxy-3-oxobutyrate, 300 ml ethanol, and 104.5 mg (0.127 mmol) [RuCl{(S)-segphos}]2(μ-Cl)3[Me2NH2] were introduced in a nitrogen stream into a 1-L autoclave and flushed with hydrogen, and after introduction of hydrogen at a pressure of 1 MPa, the mixture was heated with stirring. The mixture was reacted at 90 to 95° C. for 7 hours. After the reaction solution was cooled to room temperature, the hydrogen was purged and replaced by nitrogen. The reaction solution was concentrated in a rotary evaporator and the residue was distilled under reduced pressure to give 265.1 g of the title compound (chemical purity, 95.5%; optical purity, 99.1% ee; and yield, 87.6%).

reactant | ethyl 4-benzyloxy-3-oxobutyrate | 1.27 moles, 300.0 g | C(C1=CC=CC=C1)OCC(CC(=O)OCC)=O | C13H16O4
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | Ethyl (R)-4-Benzyloxy-3-hydroxybutyrate | 265.1 g | C(C1=CC=CC=C1)OC[C@@H](CC(=O)OCC)O | C13H18O4
